US05202351
To 4.8 g (21.7 mmol) of (+)-2-(3,4-methylenedioxyphenyl)hexylamine ([α]D21 =+2.64°, c=0.957, in ethanol), was added 46 ml of a hexane solution (0.472 M) of 2,6-diisopropylphenyl isocyanate, and the mixture was stirred for one hour at room temperature. The precipitated crystals were collected by filtration and recrystallized from ethanol to obtain 2.89 g of (+)- 1-(2-(3,4-methylenedioxyphenyl)hexyl)-3-(2,6-diisopropylphenyl)urea (Yield: 31%).

reactant | (+)-2-(3,4-methylenedioxyphenyl)hexylamine | 21.7 mmol, 4.8 g | C1OC=2C=C(C=CC2O1)C(CN)CCCC | C13H19NO2
reactant | 2,6-diisopropylphenyl isocyanate | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | hexane | 0.472 M, 46 ml | CCCCCC | C6H14
product | (+)- 1-(2-(3,4-methylenedioxyphenyl)hexyl)-3-(2,6-diisopropylphenyl)urea | 2.89 g, Yield: 31% | C1OC=2C=C(C=CC2O1)C(CNC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CCCC | C26H36N2O3
